US04218463
A solution of 4-(2-acetoxyvinyl)-2-azetidinone (10.0 g, 0.065 mole) in 200 ml ethyl acetate containing 100 mg of 10% Pd/C is hydrogenated on a Parr shaker at 25° C. under 40 psi hydrogen for 15 minutes. The mixture is filtered through a bed of Supercel and washed with additional ethyl acetate. The combined filtrate is evaporated in vacuo to give 4-(2-acetoxyethyl)-2-azetidinone (10.0 g) as a crystalline solid. Recrystallization from ether affords white crystals: M.P. 44°-7°; ir (CHCl3) μ5.66, 5.74; nmr (CDCl3) τ3.44 (broad s, 1, NH), 5.82 (m, 2, CH2OCOCH3), 6.29 (m, 1, C-4H), 6.87 (1/2 AB pattern further split in four by C-4H and NH, 1, Jgem =12.8 Hz, J=4.5 H JNH =1.9 Hz, 7.38 (1/2 AB pattern further split in four by C-4H and NH, 1, Jgem =12.8 Hz, J=2.3 Hz, JNH =1.0 Hz), 7.93 and 8.02 (s on m, total 5, OCOCH3 and CH2CH2OCOCH3, respectively).

reactant | 4-(2-acetoxyvinyl)-2-azetidinone | 0.065 mole, 10.0 g | C(C)(=O)OC=CC1CC(N1)=O | C7H9NO3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 200 ml, 100 mg | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 4-(2-acetoxyethyl)-2-azetidinone | 10.0 g | C(C)(=O)OCCC1CC(N1)=O | C7H11NO3
